US05739132
In 100 ml of a 25% hydrogen bromide-acetic acid solution was suspended 17.44 g of 2-n-butylsulfonylamino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane, and 3.6 ml of dimethylsulfoxide was added thereto. The mixture was stirred at room temperature for 1 hour. Then, the reaction mixture was poured into ice water, and crystals precipitated were collected by filtration and recrystallized from methanol to obtain 14.60 g of 2-n-butylsulfonylamino-5-[pyridazin-3(2H)-on-6-yl]indane.

reactant | hydrogen bromide acetic acid | Br.C(C)(=O)O
reactant | 2-n-butylsulfonylamino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | 17.44 g | C(CCC)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C17H23N3O3S
solvent | dimethylsulfoxide | 3.6 ml | CS(=O)C | C2H6OS
product | 2-n-butylsulfonylamino-5-[pyridazin-3(2H)-on-6-yl]indane | 14.60 g | C(CCC)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O | C17H21N3O3S
